US05298517
2-Butyl-4-chloro-1-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-1H-imidazole-5-methanol
To a solution of 0.600 g of 2-butyl-4-chloro-1-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-1H-imidazole-5-methanol mono potassium salt in 40 ml of methylene chloride is added 0.218 ml of triethylamine and 0.381 g of trityl chloride. The solution is heated at reflux for 8 hours, cooled and diluted with 30 ml of water. The organic layer is separated and the aqueous layer extracted with methylene chloride. The combined extracts are washed with water, dried with potassium carbonate, filtered and concentrated in vacuo to give 0.785 g of the desired product as a solid. FAB MASS SPEC 665(M+H).

reactant | 2-butyl-4-chloro-1-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-1H-imidazole-5-methanol mono potassium salt | 0.600 g | [K].C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1
reactant | triethylamine | 0.218 ml | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 0.381 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 2-Butyl-4-chloro-1-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-1H-imidazole-5-methanol | 0.785 g | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H37ClN6O
